US07534891B2
a) 6-Methoxy-quinoline 1-oxide
6-Methoxy quinoline (15 g, 0.094 mol) was dissolved in acetic acid (97 ml) and treated with hydrogen peroxide (37 ml). The mixture was stirred to 100° C. for 2 hours. After evaporation to dryness 100 ml of water was added to the residue until a precipitate appears. Filtration and washing with water gives a yellow precipitate that is dried under vacuum to yield 13.5 g of the title compound as a light yellow solid (82%). MS (m/e): 176.3 (M+H)+.

reactant | 6-Methoxy quinoline | 0.094 mol, 15 g | COC=1C=C2C=CC=NC2=CC1 | C10H9NO
reactant | hydrogen peroxide | 37 ml | OO | H2O2
solvent | acetic acid | 97 ml | C(C)(=O)O | C2H4O2
product | 6-Methoxy-quinoline 1-oxide | 13.5 g, 82% | COC=1C=C2C=CC=[N+](C2=CC1)[O-] | C10H9NO2
